
.subckt temp_sensor_adc_model adc_code[0] adc_code[10] adc_code[11] adc_code[1] adc_code[2] adc_code[3] adc_code[4] adc_code[5] adc_code[6] adc_code[7] adc_code[8] adc_code[9] sensor_temp_celsius[0] sensor_temp_celsius[10] sensor_temp_celsius[11] sensor_temp_celsius[12] sensor_temp_celsius[13] sensor_temp_celsius[14] sensor_temp_celsius[15] sensor_temp_celsius[1] sensor_temp_celsius[2] sensor_temp_celsius[3] sensor_temp_celsius[4] sensor_temp_celsius[5] sensor_temp_celsius[6] sensor_temp_celsius[7] sensor_temp_celsius[8] sensor_temp_celsius[9] VGND VPWR adc_code adc_valid avdd avss sample_req sensor_temp_celsius
M1 adc_valid sample_req VPWR VPWR sky130_fd_pr__pfet_01v8 W=1 L=0.15
M2 adc_valid sample_req VGND VGND sky130_fd_pr__nfet_01v8 W=1 L=0.15
M3 adc_code[0] sensor_temp_celsius[0] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M4 adc_code[0] sensor_temp_celsius[0] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M5 adc_code[1] sensor_temp_celsius[1] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M6 adc_code[1] sensor_temp_celsius[1] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M7 adc_code[2] sensor_temp_celsius[2] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M8 adc_code[2] sensor_temp_celsius[2] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M9 adc_code[3] sensor_temp_celsius[3] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M10 adc_code[3] sensor_temp_celsius[3] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M11 adc_code[4] sensor_temp_celsius[4] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M12 adc_code[4] sensor_temp_celsius[4] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M13 adc_code[5] sensor_temp_celsius[5] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M14 adc_code[5] sensor_temp_celsius[5] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M15 adc_code[6] sensor_temp_celsius[6] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M16 adc_code[6] sensor_temp_celsius[6] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M17 adc_code[7] sensor_temp_celsius[7] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M18 adc_code[7] sensor_temp_celsius[7] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M19 adc_code[8] sensor_temp_celsius[8] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M20 adc_code[8] sensor_temp_celsius[8] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M21 adc_code[9] sensor_temp_celsius[9] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M22 adc_code[9] sensor_temp_celsius[9] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M23 adc_code[10] sensor_temp_celsius[10] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M24 adc_code[10] sensor_temp_celsius[10] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
M25 adc_code[11] sensor_temp_celsius[11] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
M26 adc_code[11] sensor_temp_celsius[11] VGND VGND sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
.ends temp_sensor_adc_model
.end
